US05026853
A mixture of 6.1 parts of 1-[5,5-bis(4-fluorophenyl)pentyl]-2-piperazinecarboxamide, 4.3 parts of 2-chloro-N-(2,4,6-trimethyl-3-pyridinyl)acetamide monohydrochloride, 3.7 parts of sodium carbonate and 90 parts of N,N-dimethylformamide was stirred for 15 hours at 70° C. The reaction mixture was filtered, washed with N,N-dimethylformamide and the filtrate was evaporated in vacuo. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (92.5:7.5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was further purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the hydrochloride salt in 2-propanone and 2-propanol. The salt was filtered off, washed twice with 2-propanone and once with 2,2'-oxybispropane and dried overnight at 100°-110° C., yielding 6.58 parts (61.2%) of 3 -(aminocarbonyl)-4-[5,5-bis(4-fluorophenyl)pentyl]-N-(2,4,6-trimethyl-3-pyridinyl)-1-piperazineacetamide trihydrochloride, hemihydrate; mp. 224.7° C. (compound 115).

reactant | 1-[5,5-bis(4-fluorophenyl)pentyl]-2-piperazinecarboxamide | FC1=CC=C(C=C1)C(CCCCN1C(CNCC1)C(=O)N)C1=CC=C(C=C1)F | C22H27F2N3O
reactant | 2-chloro-N-(2,4,6-trimethyl-3-pyridinyl)acetamide monohydrochloride | Cl.ClCC(=O)NC=1C(=NC(=CC1C)C)C
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3 -(aminocarbonyl)-4-[5,5-bis(4-fluorophenyl)pentyl]-N-(2,4,6-trimethyl-3-pyridinyl)-1-piperazineacetamide trihydrochloride | 61.2% | Cl.Cl.Cl.NC(=O)C1CN(CCN1CCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)CC(=O)NC=1C(=NC(=CC1C)C)C | InChI=1S/C32H39F2N5O2.3ClH/c1-21-18-22(2)36-23(3)31(21)37-30(40)20-38-16-17-39(29(19-38)32(35)41)15-5-4-6-28(24-7-11-26(33)12-8-24)25-9-13-27(34)14-10-25;;;/h7-14,18,28-29H,4-6,15-17,19-20H2,1-3H3,(H2,35,41)(H,37,40);3*1H
